US04840943
A mixture of 1,2β-methylenandrost-4-ene-3,17-dione (2.44 g), N-bromosuccinimide (2.33 g), benzoyl peroxide (0.060 g), and carbon tetrachloride (200 ml) are heated to reflux for 4 hours. After cooling to room temperature the precipitate is filtered off, the residue washed with carbon tetrachloride and the combined filtrates evaporated in vacuo. The residue is chromatographed on silica gel using benzene/ethyl ether to give pure 6β-bromo-1,2β-methylenandrost-4-ene-3,17-dione (2.16 g, 70%).

reactant | 1,2β-methylenandrost-4-ene-3,17-dione | 2.44 g | C1C2[C@H]1C(C=C1CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@@]21C)=O)=O | C20H26O2
reactant | N-bromosuccinimide | 2.33 g | BrN1C(CCC1=O)=O | C4H4BrNO2
catalyst | benzoyl peroxide | 0.060 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 6β-bromo-1,2β-methylenandrost-4-ene-3,17-dione | 2.16 g, 70% | Br[C@@H]1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(C3[C@@H](C(C=C12)=O)C3)C)=O | C20H25BrO2
